US07906654B2
Synthesis of 4-(1-cyanocyclobutyl)benzonitrile
Solid KHMDS (3.48 g, 17.5 mmol) is dissolved in THF (20.0 mL) and cooled to 0° C. Cyclobutanecarbonitrile (1.42 g, 17.5 mmol) is added, and the resulting solution stirred for 40 minutes. A solution of 4-fluorobenzonitrile (2.12 g, 17.5 mmol) in THF (10.0 mL) is added, and the mixture stirred for 2 hours at 0° C. 1N HCl (50.0 mL) is added to the reaction mixture and the aqueous phase extracted with EtOAc (4×40.0 mL). The combined organic phases are dried over MgSO4, filtered and concentrated on the rotovaporator. The product is purified by flash chromatography (CombiFlash), eluting with mixtures of heptanes and EtOAc (0% EtOAc to 40% EtOAc) to yield the desired product (1.76 g, 9.67 mmol, 55%). 1H NMR (400 MHz, DMSO-D6) ε ppm 1.92-2.12 (m, 1H) 2.19-2.37 (m, 1H) 2.57-2.69 (m, 2H) 2.71-2.82 (m, 2H) 7.67 (d, J=8.59 Hz, 2H) 7.91 (d, J=8.79 Hz, 2H).

reactant | KHMDS | 17.5 mmol, 3.48 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Cyclobutanecarbonitrile | 17.5 mmol, 1.42 g | C1(CCC1)C#N | C5H7N
reactant | 4-fluorobenzonitrile | 17.5 mmol, 2.12 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | HCl | 1N, 50.0 mL | Cl | ClH
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 4-(1-cyanocyclobutyl)benzonitrile | 9.67 mmol, 1.76 g, 55% | C(#N)C1(CCC1)C1=CC=C(C#N)C=C1 | C12H10N2
